US07696352B2
N-((1-(4-(4-Amino-2-oxopyrimidin-1(2H)-yl)phenyl)-1H-1,2,3-triazol-4-yl)methyl)-5-chlorothiophene-2-carboxamide (79)
The mixture of 5-chloro-N-((1-(4-iodophenyl)-1H-1,2,3-triazol-4-yl)methyl)thiophene-2-carboxamide (100 mg, 0.23 mmol), cytosine (100 mg, 0.90 mmol), CuI (23 mg, 0.12 mmol), 8-hydroxyquinoline (18 mg, 0.12 mmol), potassium carbonate (96 mg, 0.69 mmol) in 2 mL DMSO in a sealed tube was stirred for 15 hrs at 120° C. The title compound was isolated directly from the reaction mixture using reverse phase prep HPLC. MS found for C18H14ClN7O2S (M+H)+ 428.1, 430.1 (Cl pattern).

reactant | 5-chloro-N-((1-(4-iodophenyl)-1H-1,2,3-triazol-4-yl)methyl)thiophene-2-carboxamide | 0.23 mmol, 100 mg | ClC1=CC=C(S1)C(=O)NCC=1N=NN(C1)C1=CC=C(C=C1)I | C14H10ClIN4OS
reactant | cytosine | 0.90 mmol, 100 mg | N1C(=O)N=C(N)C=C1 | C4H5N3O
reactant | 8-hydroxyquinoline | 0.12 mmol, 18 mg | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | potassium carbonate | 0.69 mmol, 96 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
catalyst | CuI | 0.12 mmol, 23 mg | [Cu]I
product | N-((1-(4-(4-Amino-2-oxopyrimidin-1(2H)-yl)phenyl)-1H-1,2,3-triazol-4-yl)methyl)-5-chlorothiophene-2-carboxamide | NC1=NC(N(C=C1)C1=CC=C(C=C1)N1N=NC(=C1)CNC(=O)C=1SC(=CC1)Cl)=O | C18H14ClN7O2S
